US08008481B2
A slurry containing (5-bromo-2-fluoro-phenyl)-(1H-pyrrol-2-yl)-methanone (Preparation #16b, 2.40 g, 8.96 mmol) and hydrazine hydrate (35 mL) was sealed and heated by microwave iat about 150° C. for about 1 hour. The reaction was cooled to ambient temperature and diluted with water (150 mL). The product was extracted with EtOAc (150 mL), washed with 2N HCl solution (50 mL), saturated NaHCO3 solution (50 mL) and finally a saturated NaCl solution. The EtOAc layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to yield 5-bromo-3-(1H-pyrrol-2-yl)-1H-indazole (2.38 g, 99%) as an oil. RP HPLC (Table 1, Method e) Rt=2.95; m/z: (MH)+ 262/264

reactant | (5-bromo-2-fluoro-phenyl)-(1H-pyrrol-2-yl)-methanone | 8.96 mmol, 2.40 g | BrC=1C=CC(=C(C1)C(=O)C=1NC=CC1)F | C11H7BrFNO
reactant | hydrazine hydrate | 35 mL | O.NN
solvent | water | 150 mL | O | H2O
product | 5-bromo-3-(1H-pyrrol-2-yl)-1H-indazole | 2.38 g, 99% | BrC=1C=C2C(=NNC2=CC1)C=1NC=CC1 | C11H8BrN3
